US06573378B1
N2-Acetyl-9-(4-hydroxy-3-hydroxymethylbut-1-yl)guanine
To a suspension of 9-(4-hydroxy-3-hydroxymethylbut-1-yl)guanine (0.23 g, 0.9 mmol) in pyridine (3 ml) was added chlorotrimethylsilane (0.25 ml, 2.0 mmol) and the mixture was stirred for 15 minutes. To this mixture was added acetyl chloride (0.085 ml, 1.2 mmol) and the mixture was stirred for 30 minutes. Methanol (2 ml) was the added and the mixture was stirred for a further 30 minutes. The solvent was removed and the residue purified by column chromatography on silica gel eluting with chloroform-methanol mixtures (4:1, 5:2) to give the title compound as its hydrochloride salt. This was dissolved in methanol and stirred with potassium carbonate. The solution was filtered and the solvent removed. The residue was taken up in water and passed through C18-Sep-pak cartridges. Fractions containing product were pooled and the solvent removed to afford N2-acetyl-9-(4-hydroxy-3-hydroxymethylbut-1-yl)guanine (0.11 g, 41%), m.p. 143-146° C.; λmax (H2O) 260 (15,100) nm; νmax (KBr) 3420, 3200, 2940, 1685, 1615, and 1560 cm−1; δH [(CD3)2SO] 1.46 (1H, m, 3′-H), 1.77 (2H, q, J 7.1 Hz, 2′-H), 2.18 (3H, s, CH3), 3.3-3.5 (4H, m, 2×4′-H), 4.13 (2H, t, J 7.4 Hz, 1′-H), 4.42 (2H, br.t, J 5 Hz, D2O exchangeable, 2×OH), 7.98 (1H, s, 8-H), and 11.83 (2H, br, D2O exchangeable, 1-H and 2-NH).

reactant | 9-(4-hydroxy-3-hydroxymethylbut-1-yl)guanine | 0.9 mmol, 0.23 g | OCC(CCN1C=2N=C(NC(C2N=C1)=O)N)CO | C10H15N5O3
reactant | chlorotrimethylsilane | 2.0 mmol, 0.25 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | acetyl chloride | 1.2 mmol, 0.085 ml | C(C)(=O)Cl | C2H3ClO
reactant | Methanol | 2 ml | CO | CH4O
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | N2-Acetyl-9-(4-hydroxy-3-hydroxymethylbut-1-yl)guanine | C(C)(=O)NC=1NC(C=2N=CN(C2N1)CCC(CO)CO)=O | C12H17N5O4
